US08258134B2
A mixture of [5-chloro-6-oxo-1-(tetrahydro-pyran-2-yl)-1,6-dihydro-pyridazin-4-yl]-(2-trifluoromethyl-phenyl)-acetonitrile (550 mg, 1.38 mmol) in concentrated hydrochloric acid (8.4 mL), glacial acetic acid (2.1 mL) and water (2.1 mL) (4:1:1, 0.11 M) was heated to 120° C. overnight. After this time, the reaction was cooled to 25° C. and then poured onto ice, followed by rinsing with minimal water. The resulting aqueous mixture was brought to pH=4-5 by treatment with a 4N aqueous sodium hydroxide solution. The resulting tan solids were collected by filtration. The solids were subsequently washed with water (2×10 mL) and dried in vacuo to afford 4-chloro-5-(2-trifluoromethyl-benzyl)-2H-pyridazin-3-one (0.24 g, 62%) as a tan solid; ES+-HRMS m/e calcd for C12H8N2OF3Cl [M+H+] 289.0350, found 289.0350.

reactant | [5-chloro-6-oxo-1-(tetrahydro-pyran-2-yl)-1,6-dihydro-pyridazin-4-yl]-(2-trifluoromethyl-phenyl)-acetonitrile | 1.38 mmol, 550 mg | ClC1=C(C=NN(C1=O)C1OCCCC1)C(C#N)C1=C(C=CC=C1)C(F)(F)F | C18H15ClF3N3O2
solvent | hydrochloric acid | 8.4 mL | Cl | ClH
solvent | acetic acid | 2.1 mL | C(C)(=O)O | C2H4O2
solvent | water | 0.11 M, 2.1 mL | O | H2O
product | 4-chloro-5-(2-trifluoromethyl-benzyl)-2H-pyridazin-3-one | 0.24 g, 62% | ClC=1C(NN=CC1CC1=C(C=CC=C1)C(F)(F)F)=O | C12H8ClF3N2O
